*TITLE=TLV431 MACROMODEL
*ORIGIN=DZ_DJB
*SIMULATOR=DIODES, SIMETRIX and PSPICE
*DATE=17th August 2014
*VERSION=2
*PIN_ORDER   1:Ka, 2:Ref, 3:An
*
* This model is intended for feasibility study of application
* design.  It is expected that it will not accurately represent
* the device real performance in some ares.However important
* features of the device are modelled approximately.
* The model does not include effects of temperature except for
* the Feedback reference Vref.
* Testing of prototype hardware and optimisation on the bench
* is always required before production build.
*
*

.subckt TLV431   Ka  Ref  An
* Connections     Ka  Ref  An
*
L_IC1_L3         Ka $N_0002  2n  
L_IC1_L4         Ref $N_0004  2n  
R_IC1_Rlim         $N_0006 $N_0005  5k  
D_IC1_D5         $N_0007 $N_0008 Dmod2 
D_IC1_D5b         $N_0008 $N_0009 Dmod2 
R_IC1_Rz         $N_0002 $N_0007  1  
R_IC1_Rreq         $N_0011 $N_0010 Rmod3 1e6
D_IC1_D8         $N_0012 $N_0010 Dmod 
D_IC1_D9         $N_0013 $N_0014 Dmod4 
D_IC1_D1         $N_0004 $N_0002 Desd 
R_IC1_Rt3         $N_0005 $N_0015  50k  
Q_IC1_Q1         $N_0002 $N_0004 $N_0016 qn 
C_IC1_Ct1         $N_0005 $N_0017  25n  
C_IC1_Ct2         $N_0015 $N_0018  0.33p  
E_IC1_E1         $N_0013 $N_0019 $N_0004 $N_0002 4
G_IC1_G5         $N_0019 $N_0012 $N_0014 $N_0019 1e-3
D_IC1_D7         $N_0019 $N_0012 Dmod 
G_IC1_G3         $N_0010 $N_0019 $N_0002 $N_0019 0.58e-6
C_IC1_Cin         $N_0004 $N_0019  1p  
D_IC1_D2         $N_0019 $N_0004 Desd 
L_IC1_L2         An $N_0019  2n  
I_IC1_Iref         $N_0019 $N_0010 DC 1m  
G_IC1_G1         $N_0008 $N_0019 $N_0011 $N_0019 240u
X_IC1_S1    $N_0004 $N_0019 $N_0011 $N_0019 TLV431_Sw1 
G_IC1_G2         $N_0006 $N_0019 $N_0010 $N_0004 5e-3
X_IC1_S2    $N_0002 $N_0019 $N_0011 $N_0019 TLV431_Sw2 
R_IC1_Rref         $N_0010 $N_0019 Rmod2 1.243k
R_IC1_R5         $N_0014 $N_0019  200k  
D_IC1_D4         $N_0019 $N_0006 Dmod 
R_IC1_Rt1         $N_0005 $N_0019  5k  
G_IC1_G4         $N_0009 $N_0019 $N_0015 $N_0019 2e-1
D_IC1_D6         $N_0019 $N_0009 Dmod 
R_IC1_Rref1         $N_0016 $N_0019 Rmod4 50k
R_IC1_Rt2         $N_0017 $N_0019  0.5  
R_IC1_Rt4         $N_0018 $N_0019  2  

.model qn npn is = 1.626E-17 DEV/UNIFORM=50% ise = 1.2E-16 bf = 140 DEV/UNIFORM=50%
+isc = 3E-16 rb = 600 re = 5 xti = 6.09
.MODEL Dmod D IS=1E-16 RS=1 BV=22 CJO=0.1E-12 N=1
.MODEL Dmod2 D IS=1E-16 RS=1 BV=32 CJO=1E-12 EG=1.1 N=1
.MODEL Dmod4 D IS=1E-16 RS=1 BV=22 CJO=0.1E-12 N=1 XTI=-45
.MODEL Desd D is=6.6e-18 nr=1.7 rs=5.5 bv=50 ibv=1e-5 xti=4.4
.MODEL Rmod1 RES (R=1 DEV/GAUSS=5% TC1=40E-6 TC2=-7.5E-7)
.MODEL Rmod2 RES (R=1 DEV/UNIFORM=0.25% TC1=40E-6 TC2=-7.5E-7)
.MODEL Rmod3 RES (R=1 DEV/GAUSS=5% TC1=-5.5E-3 TC2=3E-5)
.MODEL Rmod4 RES (R=1 DEV/GAUSS=5% TC1=5E-3 TC2=9.5E-7)

.ends TLV431

.subckt TLV431_Sw2 1 2 3 4  
S_IC1_S2         3 4 1 2 S2
RS_IC1_S2         1 2 1G
.MODEL         S2 VSWITCH Roff=1e6 Ron=30m Voff=1.3 Von=-0.5
.ends TLV431_Sw2

.subckt TLV431_Sw1 1 2 3 4  
S_IC1_S1         3 4 1 2 S1
RS_IC1_S1         1 2 1G
.MODEL         S1 VSWITCH Roff=1e5 Ron=10m Voff=100m Von=-100m
.ends TLV431_Sw1


*  =====================================================================
*
*                (c)  2014 Diodes Incorporated
*
*   The copyright in these models  and  the designs embodied belong
*   to Diodes Incorporated (" Diodes ").  They  are  supplied
*   free of charge by Diodes for the purpose of research and design
*   and may be used or copied intact  (including this notice)  for
*   that purpose only.  All other rights are reserved.  The models
*   are believed accurate but no condition or warranty as to their
*   merchantability or fitness for purpose is given and no liability
*   in respect of any use is accepted by Diodes Incorporated, its distributors
*   or agents.
*
*   Diodes Incorporated, 4949 Hedgcoxe Road, Suite 200, Plano, TX 75024, USA